US05281606
A solution of 6-methoxy-2-naphthylacetic acid (1.8 g, 0.009 mol), 4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine hydrochloride (2.4 g, 0.009 mol), triethylamine (2.4 ml, 0.018 mol), and BOP (3.7 g, 0.009 mol) in methylene chloride (40 ml) is stirred at room temperature for 5 hours. Then it is concentrated to dryness, the obtained residue is dissolved in a mixture ethyl ether/water, the organic phase is separated, and washed sequentially with 1N HCl, water, 5% NaOH, and water. The reaction mixture is then filtered over silica and the filtrate is concentrated to dryness affording 1-[4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyrid-1-yl]-1-oxo-2-(6-methoxy-naphth-2-yl)ethane (3.1 g). M.p. 102°-105° C.

reactant | 6-methoxy-2-naphthylacetic acid | 0.009 mol, 1.8 g | COC=1C=C2C=CC(=CC2=CC1)CC(=O)O | C13H12O3
reactant | 4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine hydrochloride | 0.009 mol, 2.4 g | Cl.FC(C=1C=C(C=CC1)C=1CCNCC1)(F)F
reactant | triethylamine | 0.018 mol, 2.4 ml | C(C)N(CC)CC | C6H15N
reactant | BOP | 0.009 mol, 3.7 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyrid-1-yl]-1-oxo-2-(6-methoxy-naphth-2-yl)ethane | 3.1 g | FC(C=1C=C(C=CC1)C=1CCN(CC1)C(CC1=CC2=CC=C(C=C2C=C1)OC)=O)(F)F | C25H22F3NO2
